US08609653B2
A suspension of methyl 6-amino-5-(hydroxymethyl)-2-methyl-4-(p-tolyl)nicotinate (3.14 g, 10.97 mmol) in dichloromethane (DCM) (100 ml) was treated with PCC (2.84 g, 13.16 mmol) and stirred at rt for 1 day. The mixture was filtered through Celite™, washed with DCM, and concentrated. Purification with column chromatography (0-100% EtOAc/Hexane) afforded methyl 6-amino-5-formyl-2-methyl-4-(p-tolyl)nicotinate (2.45 g, 8.62 mmol, 79% yield) as yellow solid: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 9.60 (s, 1 H), 7.26-7.21 (m, 2 H), 7.19-7.13 (m, 2 H), 3.48 (s, 3 H), 2.49 (s, 3 H), 2.41 (s, 3 H); LCMS (m/z) ES+=285 (M+1).

reactant | methyl 6-amino-5-(hydroxymethyl)-2-methyl-4-(p-tolyl)nicotinate | 10.97 mmol, 3.14 g | NC1=NC(=C(C(=O)OC)C(=C1CO)C1=CC=C(C=C1)C)C | C16H18N2O3
reactant | PCC | 13.16 mmol, 2.84 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | methyl 6-amino-5-formyl-2-methyl-4-(p-tolyl)nicotinate | 8.62 mmol, 2.45 g, 79% yield | NC1=NC(=C(C(=O)OC)C(=C1C=O)C1=CC=C(C=C1)C)C | C16H16N2O3
